US08685990B2
A. 4-Fluoromethoxy-phenol
To a solution of 1-(4-fluoromethoxy-phenyl)-ethanone (1.5 g; 8.9 mmol) in dichloromethane (30 mL) was added mCPBA (4.0 g; 17.8 mmol). The resulting mixture was stirred at room temperature for 4 h, then washed with saturated NaHCO3 (3×). The organic layer was dried over Na2SO4, concentrated under reduced pressure to give the crude material (3.77 g). The crude material (3.77 g) was dissolved in THF/MeOH/H2O (5/5/5 mL), then treated with LiOH (4.0 g; 108 mmol) at room temperature for 4 h. The reaction mixture was acidified with 2N HCl solution to pH 5. The mixture was extracted with EtOAc (3×). The organic phases were combined, dried over Na2SO4 and concentrated under reduced pressure to afford the title compound (1.3 g). This compound was used directly without further purification.

reactant | 1-(4-fluoromethoxy-phenyl)-ethanone | 8.9 mmol, 1.5 g | FCOC1=CC=C(C=C1)C(C)=O | C9H9FO2
reactant | mCPBA | 17.8 mmol, 4.0 g | C1=CC(=CC(=C1)Cl)C(=O)OO | C7H5ClO3
reactant | LiOH | 108 mmol, 4.0 g | [Li+].[OH-]
reactant | HCl | 2N | Cl | ClH
solvent | dichloromethane | 30 mL | ClCCl | CH2Cl2
solvent | THF MeOH H2O | 5 mL | C1CCOC1.CO.O
product | 4-Fluoromethoxy-phenol | 1.3 g | FCOC1=CC=C(C=C1)O | C7H7FO2
